US03988476
a. 4,5,6,7-Tetrachloro indane-1,3-dione
Tetrachloro phthalic anhydride was converted to the indane dione by the method described in Example 8(a), decomposes on heating. (Found; C, 39.01; H, 0.75; Cl, 50.15; C9H2Cl4O2 requires: C, 38.07; H, 0.71; Cl, 49.60%).

reactant | Tetrachloro phthalic anhydride | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | indane dione | C1(C(CC2=CC=CC=C12)=O)=O | C9H6O2
product | 4,5,6,7-Tetrachloro indane-1,3-dione | ClC1=C2C(CC(C2=C(C(=C1Cl)Cl)Cl)=O)=O | C9H2Cl4O2
